US05021412
10.0 g of 4-cyanophenol and 11.6 g of potassium carbonate were suspended in 100 ml of dimethylformamide, and 9.4 g of 2,3-dichloropropene was added dropwise. The reaction solution was stirred at 80 oC for 3 hours, allowed to cool, and poured into 200 ml of water, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried. Ethyl acetate was evaporated under reduced pressure. The resulting oily product was purified by column chromatography (silica gel; developing solvent hexane/ethyl acetate (9:1)) to give 15.2 g of the desired 4-(2-chloro-2-propeneoxy)benzonitrile as an oil.

reactant | 4-cyanophenol | 10.0 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | potassium carbonate | 11.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dichloropropene | 9.4 g | ClC(=C)CCl | C3H4Cl2
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(2-chloro-2-propeneoxy)benzonitrile | 15.2 g | ClC(COC1=CC=C(C#N)C=C1)=C | C10H8ClNO
